US05998661
Preparation of Nitrocubane
Potassium monopersulfate (6.0 g), NaHCO3 (2.0 g), water (20 ml), and acetonitrile, (30 ml) were mixed together. A solution of the hydrochloride salt of 1,3,5,7-tetraaminocubane in water, 100 mg in 25 ml, was slowly added to the solution while ozone was slowly bubbled through the reaction medium. The reaction temperature was room temperature. The addition of ozone was stopped after 4 hours; the yellowish suspension became milky white. The medium was stirred for 4 days. The reaction product was filtered and the filtrate was concentrated on a rotary evaporator. The concentrate was extracted twice with ethyl acetate (2×50 ml) and washed with aqueous HCl and then with brine. H NMR identified a 1,3,5,7-tetranitrocubane product.

reactant | Potassium monopersulfate | 6.0 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | NaHCO3 | 2.0 g | C(=O)(O)[O-].[Na+]
reactant | 1,3,5,7-tetraaminocubane | NC12C3C4(C5C3(C1C5(C24)N)N)N | C8H12N4
reactant | ozone | O=[O+][O-] | O3
reactant | water | O | H2O
reactant | water | 20 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | Nitrocubane | [N+](=O)([O-])C12C3C4C5C3C1C5C24 | C8H7NO2
